US05882628
b. 3-Nitro-5-vinylbenzoic acid methyl ester
3-Nitro-5-(2-trimethylsilylvinyl)benzoic acid methyl ester (2.44 g, 8.71 mmol) was dissolved in acetonitrile (150 ml), the solution was heated to reflux temperature and HCl gas was bubbled through the solution until the starting material had disappeared according to HPLC analysis. The solution was allowed to cool and the solvent was removed by evaporation. The residue was >95% pure according to HPLC and was used without further purification. Yield: 2.02 g (89%).

reactant | 3-Nitro-5-(2-trimethylsilylvinyl)benzoic acid methyl ester | 8.71 mmol, 2.44 g | COC(C1=CC(=CC(=C1)C=C[Si](C)(C)C)[N+](=O)[O-])=O | C13H17NO4Si
reactant | HCl | Cl | ClH
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-Nitro-5-vinylbenzoic acid methyl ester | COC(C1=CC(=CC(=C1)C=C)[N+](=O)[O-])=O | C10H9NO4
